US08703742B2
tert-Butyl 3-(1-hydroxy-3-(nitromethyl)-1,3-dihydrobenzo[c][1,2]oxaborol-7-yloxy)-propylcarbamate
A mixture of tert-butyl 3-(3-formyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propylcarbamate (3.1 g, 8.47 mmol), MeNO2 (775 mg, 12.7 mmol), CTAB (310 mg, 0.85 mmol) and NaOH (407 mg, 10 mmol) in THF (35 mL) and H2O (8 mL) was stirred at room temperature for 3 h. The mixture was adjusted to pH 2-3 using 2N HCl and then stirred for 30 min. The mixture was extracted with EtOAc (2×80 mL). The organic layer was washed with water (30 mL) and brine (30 mL), dried over anhydrous Na2SO4 and then concentrated. The residue was purified by column chromatography on silica gel (PE/EtOAc=5/1) to give the product (2 g, yield 64.5%). 1H NMR (400 MHz, DMSO-d6) δ 9.05 (s, 1H), 7.47 (t, J=7.8 Hz, 1H), 7.07 (d, J=7.4 Hz, 1H), 6.91 (m, 2H), 5.72 (dd, J=9.0, 2.7 Hz, 1H), 5.31 (dd, J=13.3, 2.7 Hz, 1H), 4.54 (dd, J=13.3, 9.4 Hz, 1H), 4.05 (t, J=6.3 Hz, 2H), 3.09 (m, 2H), 1.83 (m, 2H), 1.37 (s, 9H); MS (ESI) m/z=367 [M+H]+.

reactant | tert-butyl 3-(3-formyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propylcarbamate | 8.47 mmol, 3.1 g | C(=O)C=1C(=C(OCCCNC(OC(C)(C)C)=O)C=CC1)B1OC(C(O1)(C)C)(C)C | C21H32BNO6
reactant | MeNO2 | 12.7 mmol, 775 mg | C[N+](=O)[O-] | CH3NO2
reactant | NaOH | 10 mmol, 407 mg | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
catalyst | CTAB | 0.85 mmol, 310 mg | CCCCCCCCCCCCCCCC[N+](C)(C)C.[Br-]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | H2O | 8 mL | O | H2O
product | tert-Butyl 3-(1-hydroxy-3-(nitromethyl)-1,3-dihydrobenzo[c][1,2]oxaborol-7-yloxy)-propylcarbamate | 2 g, yield 64.5% | OB1OC(C2=C1C(=CC=C2)OCCCNC(OC(C)(C)C)=O)C[N+](=O)[O-] | C16H23BN2O7
